US04840949
A solution of 2.38 g of 2-(3-methyl-xanthine-7-yl)acetamidoxime in 25 ml of ethanol is admixed with a solution of 0.46 g of metallic sodium in 25 ml of ethanol and 3.02 g of ethyl cyclohexane carboxylate. The reaction mixture is heated to boiling under stirring for 10 hours, then evaporated. The residue is admixed with water and the pH is adjusted to 7. The precipitate is crystallized from aqueous ethanol. Thus 2.51 g of 3,7-dihydro-3-methyl-7-([5-cyclohexyl-1,2,4-oxadiazole-3-yl]methyl)-1H-purine-2,6-dione are obtained, m.p.: 245°-248° C.

reactant | 2-(3-methyl-xanthine-7-yl)acetamidoxime | 2.38 g | CN1C(NC(C=2N(C=NC12)CC(N)=NO)=O)=O | C8H10N6O3
reactant | sodium | 0.46 g | [Na] | Na
reactant | ethyl cyclohexane carboxylate | 3.02 g | C1(CCCCC1)C(=O)OCC | C9H16O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3,7-dihydro-3-methyl-7-([5-cyclohexyl-1,2,4-oxadiazole-3-yl]methyl)-1H-purine-2,6-dione | 2.51 g | CN1C(NC(C=2N(C=NC12)CC1=NOC(=N1)C1CCCCC1)=O)=O | C15H18N6O3
